US05352802
A mixture of 29.8 g (0.27 mol) of 3-thiophenecarboxaldehyde, 7.7 g (0.13 mol) of acetone, 80 mL of ethanol, 40 mL of water, and 2 mL of 10% aqueous sodium hydroxide was stirred for 15 hours at ambient temperature. The solid that crystallized from the mixture was collected by filtration, and is dried to give 29.2 g (46% yield) of E,E-1,5-di-(3-thienyl)-1,4-pentadien-3-one as a yellow solid. 1H NMR, IR, and FDMS analyses were consistent with the expected structure. Elemental analysis: Calcd for C13H10OS2 : C,63.38; H,4.09. Found: C,63.10; H,4.12.

reactant | 3-thiophenecarboxaldehyde | 0.27 mol, 29.8 g | S1C=C(C=C1)C=O | C5H4OS
reactant | acetone | 0.13 mol, 7.7 g | CC(=O)C | C3H6O
reactant | ethanol | 80 mL | C(C)O | C2H6O
reactant | sodium hydroxide | 2 mL | [OH-].[Na+]
solvent | water | 40 mL | O | H2O
product | E,E-1,5-di-(3-thienyl)-1,4-pentadien-3-one | 29.2 g, 46% yield | S1C=C(C=C1)\C=C\C(\C=C\C1=CSC=C1)=O | C13H10OS2
